US05495020
A mixture comprising 7-(3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6, 8-difluoro-5-methyl1,4-dihydro-4-oxoquinoline-3-carboxylic acid (trans form) (125 mg), ethanol (4 ml) and 10% hydrochloric acid (4 ml) is refluxed for 30 minutes. After concentrating, the obtained residue is recrystallized from ethanol to give 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6, 8-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid monohydrochloride (trans form) (63 mg), as pale yellow powder, m.p. 214°-216° C.

reactant | 7-(3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6, 8-difluoro-5-methyl1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 125 mg | C(C)(C)(C)OC(=O)NC1CN(CC1C)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)C)F | C24H29F2N3O5
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 7-(3-amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6, 8-difluoro-5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid monohydrochloride | 63 mg | Cl.NC1CN(CC1C)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)C)F | InChI=1S/C19H21F2N3O3.ClH/c1-8-5-23(7-12(8)22)17-14(20)9(2)13-16(15(17)21)24(10-3-4-10)6-11(18(13)25)19(26)27;/h6,8,10,12H,3-5,7,22H2,1-2H3,(H,26,27);1H
